US04654347
[7-[3-(Methylamino)phenyl]pyrazolo[1,5-a]pyrimidin-3-yl]phenyl methanone
Five grams of N-[3-(3-benzoylpyrazolo[1,5-a]pyrimidin-7-yl)phenyl]-N,4-dimethylbenzenesulfonamide was added to a mixture of 50 ml of trifluoroacetic acid and 10 ml of concentrated sulfuric acid. This mixture was heated at the boiling point under reflux for 3 hours. It was then poured onto 300 g of ice containing 150 ml of 10N sodium hydroxide solution. The yellow precipitate that formed was collected, washed with water, and air dried. It was dissolved in 100 ml of methylene chloride, the solution dried over magnesium sulfate, and the methylene chloride was then removed in vacuo. A bright yellow residue of 3.4 g of the desired compound was left, mp 134°-136° C.

reactant | N-[3-(3-benzoylpyrazolo[1,5-a]pyrimidin-7-yl)phenyl]-N,4-dimethylbenzenesulfonamide | Five grams | C(C1=CC=CC=C1)(=O)C=1C=NN2C1N=CC=C2C=2C=C(C=CC2)N(S(=O)(=O)C2=CC=C(C=C2)C)C | C27H22N4O3S
reactant | trifluoroacetic acid | 50 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | 10N | [OH-].[Na+]
product | [7-[3-(Methylamino)phenyl]pyrazolo[1,5-a]pyrimidin-3-yl]phenyl methanone | CNC=1C=C(C=CC1)C1=CC=NC=2N1N=CC2C(=O)C2=CC=CC=C2 | C20H16N4O
